US08791142B2
5-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}pyridine-2-carboxylic acid, hydrochloride salt
A 5N aqueous solution of NaOH (0.77 mL, 3.9 mmol) was added into a solution of methyl 5-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}pyridine-2-carboxylate (400 mg, 0.96 mmol) in MeOH (6 mL). The resulting mixture was stirred at RT for 1.5 hours. The reaction mixture was diluted with DCM and washed with a 1N aqueous solution of HCl (3×). The organic layer was dried (MgSO4) and the solvents were removed under reduced pressure. The residue was taken up with Et2O and an excess of a 1N solution of HCl in Et2O was added. The precipitate was filtered off and dried under reduced pressure to give the title compound as a white powder (370 mg, 88%). HPLC (Method A), Rt: 5.0 min (purity: 94.7%). UPLC/MS, M+(ESI): 402.4. 1H NMR (DMSO-d6, 300 MHz) δ 9.38 (d, J=2.1 Hz, 1H), 8.66 (dd, J=8.2, 2.1 Hz, 1H), 8.34 (d, J=1.8 Hz, 1H), 8.27 (d, J=8.2 Hz, 1H), 8.19 (dd, J=7.9, 1.8 Hz, 1H), 7.44 (d, J=7.9 Hz, 1H), 7.36 (m, 2H), 7.29 (m, 1H), 7.15 (d, J=7.0 Hz, 1H), 4.23 (d, J=12.7 Hz, 1H), 4.16 (d, J=12.7 Hz, 1H), 3.25 (s, 3H), 2.04 (s, 3H).

reactant | NaOH | 3.9 mmol, 0.77 mL | [OH-].[Na+]
reactant | methyl 5-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}pyridine-2-carboxylate | 0.96 mmol, 400 mg | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=CC(=NC1)C(=O)OC)C1=C(C=CC=C1)C | C24H21N3O4
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | 6 mL | CO | CH4O
product | 5-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}pyridine-2-carboxylic acid, hydrochloride salt | 370 mg, 88% | Cl.COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=CC(=NC1)C(=O)O)C1=C(C=CC=C1)C | InChI=1S/C23H19N3O4.ClH/c1-14-5-3-4-6-18(14)19-9-7-15(11-17(19)13-29-2)22-25-21(26-30-22)16-8-10-20(23(27)28)24-12-16;/h3-12H,13H2,1-2H3,(H,27,28);1H
